US04461764
Preparation of 3-(Bromomethyl)-3-sulfolene
In a reaction vessel, 21.0 gms (0.1591 moles) 3-methyl sulfolene, 28.32 gms (0.1591 moles) N-bromo succinimide, 1.9 gms (0.0008 moles) benzoyl peroxide and 250 ml chlorform were combined. The resulting mixture was heated to reflux and then refluxed for 20 hours. The reaction mixture was cooled to 0° C. and then filtered to remove the succinimide. The filtrate was stripped until only a small amount of solvent remained. The remaining solids were removed by filtration, and the remainder of the solvent was stripped to give an orange oil. Ether was added to the oil. After a few minutes, the solids crystallized. Filtration and drying yielded 11.5 gms of the product. The NMR and IR spectra confirmed the structure.

reactant | 3-methyl sulfolene | 0.1591 moles, 21.0 gms | CC=1CS(=O)(=O)CC1 | C5H8O2S
reactant | N-bromo succinimide | 0.1591 moles, 28.32 gms | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.0008 moles, 1.9 gms | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | chlorform | 250 ml | C(Cl)(Cl)Cl | CHCl3
solvent | Ether | CCOCC | C4H10O
product | 3-(Bromomethyl)-3-sulfolene | 11.5 gms | BrCC=1CS(=O)(=O)CC1 | C5H7BrO2S
